US04410716
In 50 ml of dichloroethane was dissolved in 3.0 g of 2-benzyl-4-chlorocarbonylmethylphenylacetyl chloride. With stirring at room temperature, 5.0 g of a solution of boron trifluoride etherate was added to the solution. The mixture was stirred for 2 hours, and worked up in the same way as in Example 6 to afford 1.42 g of 10,11-dihydro-10-oxo-5H-dibenzo[a,d]cycloheptene-3-acetic acid as a colorless crystalline powder (recrystallized from a mixture of methanol and n-hexane) having a melting point of 186° to 188° C.

reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | 2-benzyl-4-chlorocarbonylmethylphenylacetyl chloride | 3.0 g | C(C1=CC=CC=C1)C1=C(C=CC(=C1)CC(=O)Cl)CC(=O)Cl | C17H14Cl2O2
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | 10,11-dihydro-10-oxo-5H-dibenzo[a,d]cycloheptene-3-acetic acid | 1.42 g | O=C1CC2=C(CC3=C1C=CC=C3)C=C(C=C2)CC(=O)O | C17H14O3
